US07153848B2
3-cyclohexenyl-1H-indole-6-carboxylic acid.
Cyclohexanone (96 mL, 0.926 mol) was added to a stirred mixture of indole-6-carboxylic acid (50.0 g, 0.335 mol) in methanol (920 mL) at 22° C. Methanolic sodium methoxide (416 mL of 25% w/w, 1.82 mol) was added in portions over 10 minutes. The mixture was stirred at reflux for 18 hours, cooled to room temperature, concentrated, diluted with cold water, and acidified with 36% HCl. The resulting precipitate was collected by filtration, washed with cold water, and dried over phosphorous pentoxide (0.1 mm) to provide the desired product (80.9 g, 97.5% yield).

reactant | Cyclohexanone | 0.926 mol, 96 mL | C1(CCCCC1)=O | C6H10O
reactant | indole-6-carboxylic acid | 0.335 mol, 50.0 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | sodium methoxide | 1.82 mol, 416 mL | C[O-].[Na+]
solvent | methanol | 920 mL | CO | CH4O
product | 3-cyclohexenyl-1H-indole-6-carboxylic acid | 80.9 g, 97.5% yield | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H15NO2
